US06384047B1
2. (−)-cis-9-Ethoxy-8-methoxy-2-methyl-6-[4-(p-toluenesulfonamido)-phenyl]-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine
2.52 g (−)-cis-3-(3-Ethoxy-4-methoxyphenyl)-1-methyl-4-[4-(p-toluenesulfonamido)-benzamido]-piperidine are heated to boiling under reflux for 5 h in 4.3 ml phosphorus oxychloride and 60 ml of acetonitrile. After destilling off the excess acetonitrile and phosphorus oxychloride, the residue is partitioned between dichloromethane and saturated sodium hydrogencarbonate solution. The organic phase is washed with water, dried over sodium sulfate and concentrated. After evaporation of the dichloromethane, the residue is purified over silica gel by chromatography. The main product fraction is separated and concentrated. The title compound is obtained after recrystallisation in ethyl acetate/diethyl ether (1:10) as faint yellow fine crystalls. M.p. 207-219° C. (unsharp, destruction and red colouring).

reactant | (−)-cis-3-(3-Ethoxy-4-methoxyphenyl)-1-methyl-4-[4-(p-toluenesulfonamido)-benzamido]-piperidine | 2.52 g | C(C)OC=1C=C(C=CC1OC)[C@@H]1CN(CC[C@@H]1NC(C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C)=O)C | C29H35N3O5S
solvent | phosphorus oxychloride | 4.3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | (−)-cis-9-Ethoxy-8-methoxy-2-methyl-6-[4-(p-toluenesulfonamido)-phenyl]-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine | C(C)OC1=CC2=C(C(=N[C@H]3CCN(C[C@@H]23)C)C2=CC=C(C=C2)NS(=O)(=O)C2=CC=C(C=C2)C)C=C1OC | C29H33N3O4S
